US07579341B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(1-carboxymethyl-4-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 10.0 mg (0.42 mmol) LiOH in 5 mL water was added to 100 mg (0.12 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(1-ethoxy-carbonyl-methyl-4-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 10 mL THF and the reaction mixture was stirred for 3 h at RT. 0.42 mL (0.42 mmol) 1 M HCl were added and the mixture was evaporated down i. vac. The residue was taken up in a little DCM/MeOH (1:1), filtered through a little silica gel and eluted with DCM/MeOH (1:1). The filtrate was evaporated down i. vac. and dried under a high vacuum.

reactant | LiOH | 0.42 mmol, 10.0 mg | [Li+].[OH-]
reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(1-ethoxy-carbonyl-methyl-4-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.12 mmol, 100 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1(C(C(N(CC1)OCC)C)=C=O)C)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C39H49ClF3N7O6
reactant | HCl | 0.42 mmol, 1 M, 0.42 mL | Cl | ClH
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(1-carboxymethyl-4-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1(CCN(CC1)CC(=O)O)C)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C37H47ClF3N7O6
